US07405300B2
2-Chloro-1-(pyridin-2-yl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 2-(piperazin-1-yl)-1-(pyridin-2-yl)-1H-indole-3-carboxaldehyde (72% yield) as an orange solid. ESI/MS 307 (M+H); RT 2.23 min; NMR 10.30 (1H, s); 8.75 (1H, m); 8.26 (1H, d, J=9 Hz); 7.98 (1H, m); 7.46 (5H, m); 3.30 (4H, m); 2.81 (4H, m).

reactant | 2-Chloro-1-(pyridin-2-yl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=NC=CC=C1 | C14H9ClN2O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(piperazin-1-yl)-1-(pyridin-2-yl)-1H-indole-3-carboxaldehyde | 72% yield | N1(CCNCC1)C=1N(C2=CC=CC=C2C1C=O)C1=NC=CC=C1 | C18H18N4O
